US06465472B1
1-Isopropyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)-3,4-dihydroquinazolin-2(1H)-one
The title compound was synthesized from N-isopropyl-N-[3,4-(methylenedioxy)phenyl]urea and piperonal by the procedure described in example 10 in 41% yield, mp: 87-89° C. 1H NMR (CDCl3,): 6.77 (s, 3H), 6.68 (s, 1H), 6.28 (s, 1H), 5.96 (s, 2H), 5.92-5.90 (m, 2H), 5.22 (d, J=1.8, 1H), 4.98 (br s, 1H), 4.44 (m, 2H), 1.58-1.54 (m, 6H).

reactant | N-isopropyl-N-[3,4-(methylenedioxy)phenyl]urea | C(C)(C)N(C(=O)N)C1=CC2=C(C=C1)OCO2 | C11H14N2O3
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
product | 1-Isopropyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)-3,4-dihydroquinazolin-2(1H)-one | 41% yield | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C3=CC1=C(C=C3)OCO1)=O | C19H18N2O5
